US08445684B2
3-[3(R)-[3-(Benzyloxy)propyl]-1-pyrrolidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine
To a solution of 3(R)-[3-(benzyloxy)propyl]pyrrolidine (350 mg, 1.60 mmol) and 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine (627 mg, 1.76 mmol, 1.1 equiv.) in 10 mL of anhydrous toluene were added successively at room temperature sodium tert-butoxide (307 mg, 3.20 mmol, 2.0 equiv.), tris(dibenzylideneacetone)dipalladium(0) (99 mg, 0.10 mmol, 0.06 equiv.) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos, 111 mg, 0.19 mmol, 0.12 equiv.). The mixture was degassed and purged with nitrogen (3 cycles) and then heated to 98-100° C. After 4 h, the mixture was cooled to room temperature, diluted with EtOAc, and washed with brine. After drying over Na2SO4, the solvent was evaporated, and the residue was purified by CC (SiO2, CH2Cl2/EtOAc 8:1 to 3:1) to obtain the product (791 mg, 63%) as a light yellow oil. LC-MS (ESI) m/z 496 (M+H+).

reactant | 3(R)-[3-(benzyloxy)propyl]pyrrolidine | 1.60 mmol, 350 mg | C(C1=CC=CC=C1)OCCC[C@H]1CNCC1 | C14H21NO
reactant | 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine | 1.76 mmol, 627 mg, 1.1 equiv. | BrC=1C=NC=C(C1)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C15H21BrN2O3
reactant | sodium tert-butoxide | 3.20 mmol, 307 mg, 2.0 equiv. | CC(C)([O-])C.[Na+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.19 mmol, 111 mg, 0.12 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.10 mmol, 99 mg, 0.06 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-[3(R)-[3-(Benzyloxy)propyl]-1-pyrrolidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine | 791 mg, 63% | C(C1=CC=CC=C1)OCCC[C@H]1CN(CC1)C=1C=NC=C(C1)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C29H41N3O4
